US06747023B1
2-Carbamoyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-[4-(pyridin-3-yl)benzoyl]piperazine hydrochloride
In the same manner as in Example A-3, with 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonyl-1-[4-(pyridin-3-yl)benzoyl]piperazine (426 mg) as a starting material, a crude product was obtained by the hydrolysis of the ester, followed by suspension in N,N-dimethylformamide (35 ml). Under ice cooling, di-tert-butyl dicarbonate (646 mg), pyridine (370 μl) and ammonium bicarbonate (196 mg) were added to the resulting suspension. The resulting mixture was stirred at room temperature for 19 hours. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (4% methanol—dichloromethane) and the eluate was dissolved in tetrahydrofuran. Solution of hydrochloride in ethanol was added to the resulting solution to solidify the same. The resulting solid was collected by filtration and dissolved in a mixed solvent of water and methanol. The insoluble matter was filtered off and the filtrate was distilled under reduced pressure, whereby the title compound (302 mg, 65%) was obtained.

reactant | 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonyl-1-[4-(pyridin-3-yl)benzoyl]piperazine | 426 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(C1=CC=C(C=C1)C=1C=NC=CC1)=O)C(=O)OCC | C29H26ClN3O5S
reactant | di-tert-butyl dicarbonate | 646 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 370 μl | N1=CC=CC=C1 | C5H5N
reactant | ammonium bicarbonate | 196 mg | C([O-])(O)=O.[NH4+]
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 2-Carbamoyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-[4-(pyridin-3-yl)benzoyl]piperazine hydrochloride | Cl.C(N)(=O)C1N(CCN(C1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)C(C1=CC=C(C=C1)C=1C=NC=CC1)=O | InChI=1S/C27H23ClN4O4S.ClH/c28-23-9-7-21-15-24(10-8-20(21)14-23)37(35,36)31-12-13-32(25(17-31)26(29)33)27(34)19-5-3-18(4-6-19)22-2-1-11-30-16-22;/h1-11,14-16,25H,12-13,17H2,(H2,29,33);1H
